US07597875B2
1,1,1-tris[2(p-methoxybenzylamino)ethyl]methane (20.0 gram, 0.036 mol) was dissolved in methanol (100 ml) and Pd(OH)2 (5.0 gram) was added. The mixture was hydrogenated (3 bar, 100° C., in an autoclave) and stirred for 5 hours. Pd(OH)2 was added in two more portions (2×5 gram) after 10 and 15 hours respectively. The reaction mixture was filtered and the filtrate was washed with methanol. The combined organic phase was evaporated and the residue was distilled under vacuum (1×10−2, 110° C.) to give 2.60 gram (50%) of 1,1,1-tris(2-aminoethyl)methane identical with the previously described Example 1.

reactant | 1,1,1-tris[2(p-methoxybenzylamino)ethyl]methane | 0.036 mol, 20.0 gram | COC1=CC=C(CNCCC(CCNCC2=CC=C(C=C2)OC)CCNCC2=CC=C(C=C2)OC)C=C1 | C31H43N3O3
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd(OH)2 | 5.0 gram | [OH-].[OH-].[Pd+2]
product | 1,1,1-tris(2-aminoethyl)methane | 2.60 gram, 50% | NCCC(CCN)CCN | C7H19N3
